US06069143
b)Methyl 4-[[[4-(1-piperazinyl)phenyl]amino]carbonyl]-1-piperidine acetate
A solution of Methyl 4-[[[4-(4-t-butyloxycarbonyl-1-piperazinyl)phenyl]amino]carbonyl]-1-piperidine acetate (2.1 g, 4.5 mmol) was treated with CH2Cl2 /TFA (10 mL/15 mL) for 20 min. Solution was concentrated and the residue was treated with MeOH/4M HCl (10 mL/10 mL). Solution was concentrated until precipitation started. Solution was filtered and the solid was washed with Et2O to give the title compound (1.5 g, 87%). MS (ES) m/e 361 [M+H]+. 1HNMR (250 MHz, DMSO[d6]) δ 1.4-4.5 (m, 22H), 6.9-9.5 (m, 5H). Anal. (C18H25N3O3.2.87HCl.0.5H2O) calcd: C, 54.32; H, 7.20; N, 10.29. found: C, 54.52; H, 7.24; N, 10.35.

reactant | Methyl 4-[[[4-(4-t-butyloxycarbonyl-1-piperazinyl)phenyl]amino]carbonyl]-1-piperidine acetate | 4.5 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)CC(=O)OC | C24H36N4O5
solvent | CH2Cl2 TFA | 10 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | Methyl 4-[[[4-(1-piperazinyl)phenyl]amino]carbonyl]-1-piperidine acetate | 1.5 g, 87% | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)CC(=O)OC | C19H28N4O3
